US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 2-(pyrazol-1-yl)benzeneboronic acid were coupled in the same way as in Example 30 to give 2-{8-fluoro-3-[2-fluoro-2′-(pyrazol-1-yl)biphenyl-5-yl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (5 mg, 4%): m/z (ES+) 431 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 2-(pyrazol-1-yl)benzeneboronic acid | N1(N=CC=C1)C1=C(C=CC=C1)B(O)O | C9H9BN2O2
product | 2-{8-fluoro-3-[2-fluoro-2′-(pyrazol-1-yl)biphenyl-5-yl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol | 5 mg, 4% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C=2C=CC(=C(C2)C2=C(C=CC=C2)N2N=CC=C2)F | C25H20F2N4O
